US07179839B2
4-FLUORO-N-(5-NITRO-INDAN-2-YL)-BENZAMIDE
To 5.0 g (19.6 mmol) 4-fluoro-N-(indan-2-yl)-benzamide was given, at 5–10° C., a nitrating mixture of 10 ml conc. nitric acid and 12 ml conc. sulfuric acid, followed by stirring over 3 h at room temperature. The mixture was worked up by pouring onto an ice/water mixture, extraction with ethyl acetate, washing of the organic phase with a solution of sodium hydrogen carbonate, drying and evaporating to dryness. The thus-obtained residue was crystallized form ethyl acetate/heptane. yield: 3.2 g (54%), mp.: 167° C.

reactant | 4-fluoro-N-(indan-2-yl)-benzamide | 19.6 mmol, 5.0 g | FC1=CC=C(C(=O)NC2CC3=CC=CC=C3C2)C=C1 | C16H14FNO
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-FLUORO-N-(5-NITRO-INDAN-2-YL)-BENZAMIDE | FC1=CC=C(C(=O)NC2CC3=CC=C(C=C3C2)[N+](=O)[O-])C=C1 | C16H13FN2O3
